US07176216B2
7-Bromo-2-methoxypyrazolo[1,5-a]pyridine
A solution of 2-methoxypyrazolo[1,5-a]pyridine (Reference; Bull. Chem. Soc. Japan, vol. 49(7), 1980–1984(1976)) (7.15 g) in tetrahydrofuran (140 mL) was cooled to −78° C. under a nitrogen stream, and after adding n-butyllithium (1.6M hexane solution: 46 mL) dropwise thereto, the reaction mixture was stirred for 30 minutes. A solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (18.9 g) in tetrahydrofuran (30 mL) was added dropwise to the reaction mixture at −78° C., and stirring was continued for 1 hour. The reaction mixture was raised to room temperature, water was added, and then extraction was performed with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (7.1 g) was obtained as a yellow oil from the n-hexane:ethyl acetate (50:1) fraction.

reactant | 2-methoxypyrazolo[1,5-a]pyridine | 7.15 g | COC1=NN2C(C=CC=C2)=C1 | C8H8N2O
reactant | n-butyllithium | 1.6M, 46 mL | C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 18.9 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | water | O | H2O
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-Bromo-2-methoxypyrazolo[1,5-a]pyridine | 7.1 g | BrC1=CC=CC=2N1N=C(C2)OC | C8H7BrN2O
